US04430339
(b) 8-Cyclopentyl-2-methyleneoctanoic acid ethyl ester
11.5 g of 8-cyclopentyl-2-methyleneoctanoic acid ethyl ester, in the form of a nearly colourless oil, which is purified by chromatography on silica gel (migrating agent: 95:5 petroleum ether/ethyl acetate), are obtained by the procedure described in Example (1b) from 22.1 g of (6-cyclopentylhexyl)-malonic acid ethyl ester, 2.8 g of paraformaldehyde, 22 ml of pyridine and 1 ml of piperidine.

reactant | (6-cyclopentylhexyl)-malonic acid ethyl ester | 22.1 g | C(C)OC(C(C(=O)O)CCCCCCC1CCCC1)=O | C16H28O4
reactant | paraformaldehyde | 2.8 g | C=O | CH2O
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 22 ml | N1=CC=CC=C1 | C5H5N
product | 8-Cyclopentyl-2-methyleneoctanoic acid ethyl ester | C(C)OC(C(CCCCCCC1CCCC1)=C)=O | C16H28O2
